US05849735
N-[5-[(5,10-Dihydro-4H-thieno[3,2-c][2]benzazepin-4-yl)carbonyl]-2-pyridinyl]-5-fluoro-2-methylbenzamide
As described for Example 1, 5, 10-dihydro-4H-thieno[3,2-c][2]benzazepine in dichloromethane in the presence of triethylamine is reacted with 6-[(5-fluoro-2-methylbenzoyl)amino]pyridine-3-carbonyl chloride to give the product as a solid.

reactant | 5, 10-dihydro-4H-thieno[3,2-c][2]benzazepine | S1C=CC=2NCC3=C(CC21)C=CC=C3 | C12H11NS
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 6-[(5-fluoro-2-methylbenzoyl)amino]pyridine-3-carbonyl chloride | FC=1C=CC(=C(C(=O)NC2=CC=C(C=N2)C(=O)Cl)C1)C | C14H10ClFN2O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-[5-[(5,10-Dihydro-4H-thieno[3,2-c][2]benzazepin-4-yl)carbonyl]-2-pyridinyl]-5-fluoro-2-methylbenzamide | S1C=CC=2N(CC3=C(CC21)C=CC=C3)C(=O)C=3C=CC(=NC3)NC(C3=C(C=CC(=C3)F)C)=O | C26H20FN3O2S
